US05175301
In 30 ml of toluene was dissolved 2.4 g (0.015 mole) of 2-chloro-5-ethylaminopyridine, followed by addition of 3.4 g of methyl isocyanate. The mixture was refluxed for 15 hours. After cooling, the resulting crystals were collected by filtration, washed with a small amount of Et2O and dried. The procedure gave 3.0 g of N-(6-chloro-3-pyridyl)-N-ethyl-N'-methylurea as pale yellow crystals.

reactant | 2-chloro-5-ethylaminopyridine | 0.015 mole, 2.4 g | ClC1=NC=C(C=C1)NCC | C7H9ClN2
reactant | methyl isocyanate | 3.4 g | CN=C=O | C2H3NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(6-chloro-3-pyridyl)-N-ethyl-N'-methylurea | 3.0 g | ClC1=CC=C(C=N1)N(C(=O)NC)CC | C9H12ClN3O
